* /home/fossee/updatedexamples/fullwavebridgerectifier/fullwavebridgerectifier.cir

v1  in1 in2 sine(0 5 50 0 0)
d1  in1 out d
d3  in2 out d
d2  gnd in1 d
d4  gnd in2 d
r1  out gnd 1k
* u2  out plot_v1
* u1  in1 in2 plot_v2
.tran 10e-00 100e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in1,in2)
.endc
.end
